US04950657
Example 1 - Preparation of O,S-Dimethyl ((4-(1,1-Dimethylethyl)-1-piperazinyl)carbonyl)phosphoramidothioate
To a stirred solution of 2.85 grams (g) of 1-(1,1-dimethylethylpiperazine in 60 milliliters (ml) of ether was added dropwise at ambient temperature 3.4 g of O,S-dimethyl phosphoroisocyanatidothioate. A precipitate began to form almost immediately. After a short time this precipitate was collected by filtration, extracted with ether, and dried to obtain 5.34 g of the title compound (86 percent of theory) as white crystals melting at 133-135° C.

reactant | 1,1-dimethylethylpiperazine | CC(C)(C)N1CCNCC1 | C8H18N2
reactant | O,S-dimethyl phosphoroisocyanatidothioate | 3.4 g | P(OC)(SC)(N=C=O)=O | C3H6NO3PS
solvent | ether | 60 milliliters | CCOCC | C4H10O
product | O,S-Dimethyl ((4-(1,1-Dimethylethyl)-1-piperazinyl)carbonyl)phosphoramidothioate | 5.34 g, 86 percent | CC(C)(C)N1CCN(CC1)C(=O)NP(OC)(SC)=O | C11H24N3O3PS
